US08003649B2
A mixture of 2-piperazin-1-yl-1-piperidin-1-ylethanone and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 3. The crude product was purified by hplc using a Waters XTerra C18 column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 1-piperidin-1-yl-2-[4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]ethanone.

reactant | 2-piperazin-1-yl-1-piperidin-1-ylethanone | N1(CCNCC1)CC(=O)N1CCCCC1 | C11H21N3O
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | 1-piperidin-1-yl-2-[4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]ethanone | N1(CCCCC1)C(CN1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)=O | C17H22F3N7O
